US05180837
6.9 g (40 mmol) of 5-(1,3-dithian-2-yl)-1-methylimidazole are dissolved in 190 ml of tetrahydrofuran and cooled to -78° C. 40 mmol of n-BuLi in 24 ml of hexane are added dropwise to this and, after 30 minutes, at -78° C., 3.8 ml (54 mmol) of γ-crotonolactone are added. After a further 1.5 hours at -78° C., 190 ml of water are added dropwise, and the mixture is warmed to room temperature. It is subsequently acidified with glacial acetic acid, the organic layer is separated off, and the aqueous phase is washed several times with ethyl acetate. The combined organic extracts are dried over magnesium sulfate and subsequently concentrated in vacuo. The residue is chromatographed on silica gel with dichloromethane/methanol (9:1). 3.1 g (10.9 mmol, 27%) of 3-(2-(1-methylimidazol-5-yl)-1,3-dithian-2-yl)butyrolactone are obtained as a yellow oil in this way.

reactant | 5-(1,3-dithian-2-yl)-1-methylimidazole | 40 mmol, 6.9 g | S1C(SCCC1)C1=CN=CN1C | C8H12N2S2
reactant | n-BuLi | 40 mmol | [Li]CCCC
reactant | γ-crotonolactone | 54 mmol, 3.8 ml | C1(C=CCO1)=O | C4H4O2
reactant | water | 190 ml | O | H2O
solvent | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
solvent | hexane | 24 ml | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(2-(1-methylimidazol-5-yl)-1,3-dithian-2-yl)butyrolactone | 10.9 mmol, 3.1 g, 27% | CN1C=NC=C1C1(SCCCS1)C1CC(=O)OC1 | C12H16N2O2S2
